US07223776B2
10.b) 4-Hydroxy-4-[2-(6-methoxyquinazolin-4-yl)-ethyl]-cyclo-hexanone
A solution of 8-([2-(6-methoxy-quinazolin-4-yl)-ethyl]-1,4-dioxa-spiro[4.5]decan-8-ol (0.623 g, 1.81 mmol) in AcOH/THF/H2O (3/2/2, 10 ml) was stirred at 60° C. for 30 hours. The reaction mixture was concentrated to dryness by rotary evaporation. The residue was diluted with sodium bicarbonate (100 ml) and ethyl acetate (100 ml), the phases were separated and the aqueous phase was extracted twice using 50 ml of ethyl acetate each time. The combined organic phases were dried over MgSO4, filtered and concentrated to dryness by rotary evaporation.

reactant | [2-(6-methoxy-quinazolin-4-yl)-ethyl]-1,4-dioxa-spiro[4.5]decan-8-ol | 1.81 mmol, 0.623 g | COC=1C=C2C(=NC=NC2=CC1)CCC1OC2(OC1)CCC(CC2)O | C19H24N2O4
solvent | AcOH THF H2O | 10 ml | CC(=O)O.C1CCOC1.O
product | 4-Hydroxy-4-[2-(6-methoxyquinazolin-4-yl)-ethyl]-cyclo-hexanone | OC1(CCC(CC1)=O)CCC1=NC=NC2=CC=C(C=C12)OC | C17H20N2O3
